US04950764
Synthesis Example 7-1: Synthesis of 5-methyl-2-(2-nitro-4-trifluoromethylphenyl)-4-isoxazolin-3-one
226 g of 4-chloro-3-nitrobenzotrifluoride, 129 g of 3-hydroxy-5-methylisoxazole, 336 g of sodium hydrogen carbonate, and 600 ml of dimethylsulfoxide were mixed with each other and reacted at 75° C. for 6 hours. After completion of the reaction, the reaction solution was poured into water, and the crystals which precipitated were purified using a silica gel short column chromatography and recrystallized from water-methanol.

reactant | 4-chloro-3-nitrobenzotrifluoride | 226 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | 3-hydroxy-5-methylisoxazole | 129 g | OC1=NOC(=C1)C | C4H5NO2
reactant | sodium hydrogen carbonate | 336 g | C(O)([O-])=O.[Na+]
reactant | dimethylsulfoxide | 600 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-methyl-2-(2-nitro-4-trifluoromethylphenyl)-4-isoxazolin-3-one | CC1=CC(N(O1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C11H7F3N2O4
